US07875728B2
Preparation of tert-butyl-[5-methyl-4-(phenylhydrazono)-4H-pyrazol-3-yl]amine
The title compound was prepared using 100 mg (0.4 mmol) of N-tert-butyl-3-oxo-2-(phenylhydrazono)butyramide which was synthesized using aniline (1.7 mmol) and N-tert-butyl acetoacetamide (393 mg, 2.5 mmol). Hydrazine hydrate (2.3 mmol) was added to a solution of N-tert-butyl-3-oxo-2-(phenylhydrazono)butyramide in ethanol. Very little solid had formed after heating the reaction at 75° C. for 1 hour, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to ambient temperature and the solvent was evaporated. The residue was recrystallized from ethanol/water. The resulting solid was isolated by filtration and dried to yield 38 mg (43%) of the title compound as a yellow solid. 1H NMR (ppm, 200 MHz, CDCl3) δ 1.42 (s, 9H), 2.20 (s, 3H), 5.35 (br s, 1H), 6.95 (t, 1H), 7.15-7.35 (m, 4H), 9.95 (br s, 1H); IR (cm−1, KBr pellet): 3368 (w), 3197 (w), 3038 (w), 2973 (w), 2928 (w), 1631 (m), 1602 (m), 1565 (m), 1516 (s), 1498 (s), 1391 (w), 1366 (m), 1225 (m), 1187 (w), 1166 (w), 1119 (w), 1074 (w), 1059 (w), 949 (w), 895 (w), 775 (w), 748 (w), 691 (m), 561 (w); MS (m/z, ES+): 276.2 (M+18, 5%), 259.2 (M+1, 1%), 203.1 (M-55, 5%).

reactant | N-tert-butyl-3-oxo-2-(phenylhydrazono)butyramide | 0.4 mmol, 100 mg | C(C)(C)(C)NC(C(C(C)=O)=NNC1=CC=CC=C1)=O | C14H19N3O2
reactant | aniline | 1.7 mmol | NC1=CC=CC=C1 | C6H7N
reactant | N-tert-butyl acetoacetamide | 2.5 mmol, 393 mg | C(C)(C)(C)NC(CC(=O)C)=O | C8H15NO2
reactant | Hydrazine hydrate | 2.3 mmol | O.NN
solvent | ethanol | C(C)O | C2H6O
product | tert-butyl-[5-methyl-4-(phenylhydrazono)-4H-pyrazol-3-yl]amine | 38 mg, 43% | C(C)(C)(C)NC1=NN=C(C1=NNC1=CC=CC=C1)C | C14H19N5
